US08865726B2
To a solution of toluene (40 mL) cooled to −78° C. was added butyl lithium (1.6 M in hexanes, 5.57 mL, 13.9 mmol) at a rate such that the internal temperature did not exceed −50° C., and the reaction stirred until the internal temperature returned to −78° C. 2-Bromopyridine (1.20 mL, 12.7 mmol) in toluene (4 mL) was added to the reaction mixture at a rate such that the temperature did not exceed −65° C. The reaction was stirred at −78° C. for 1 hour. To the reaction was added (S,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide (3.58 g, 13.9 mmol) in toluene (20 mL) at a rate such that the internal temperature did not exceed −60° C. The reaction was stirred at −78° C. for 2 hours. To the −78° C. solution was added brine (50 mL) and the mixture was partitioned between EtOAc/water (300 mL total). The organic layer was washed with brine (50 mL), dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed using 40% EtOAc/DCM as eluent to yield (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide (2.1 g, 46.7%).

reactant | butyl lithium | 13.9 mmol, 1.6 M, 5.57 mL | C(CCC)[Li]
reactant | 2-Bromopyridine | 12.7 mmol, 1.20 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | (S,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide | 13.9 mmol, 3.58 g | [Si](C)(C)(C(C)(C)C)OC\C=N\[S@@](=O)C(C)(C)C | C12H27NO2SSi
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide | 2.1 g, 46.7% | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=NC=CC=C1)N[S@@](=O)C(C)(C)C | C17H32N2O2SSi
